US07759337B2
Step B. 3-(1-Isopropylphthalazin-6-yl)4-methylbenzoic acid
A solution of ethyl 3-(1-isopropylphthalazin-6-yl)-4-methylbenzoate (37.5 mg, 0.11 mmol) in tetrahydrofuran (0.3 mL) and methanol (0.15 mL) was treated with 1N aq. sodium hydroxide (0.28 mL, 0.28 mmol) and stirred at RT for 18 h. The reaction mixture was concentrated in vacuo and the residue was taken up in water. The pH was adjusted with 10% HCl solution to ˜7. The precipitate formed was collected via filtration and dried under high vacuum to afford the title compound as a maize-colored solid. MS (ES+): 307.2 (M+H)+.

reactant | ethyl 3-(1-isopropylphthalazin-6-yl)-4-methylbenzoate | 0.11 mmol, 37.5 mg | C(C)(C)C1=NN=CC2=CC(=CC=C12)C=1C=C(C(=O)OCC)C=CC1C | C21H22N2O2
reactant | sodium hydroxide | 0.28 mmol, 1N, 0.28 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 0.3 mL | O1CCCC1 | C4H8O
solvent | methanol | 0.15 mL | CO | CH4O
product | 3-(1-Isopropylphthalazin-6-yl)4-methylbenzoic acid | C(C)(C)C1=NN=CC2=CC(=CC=C12)C=1C=C(C(=O)O)C=CC1C | C19H18N2O2
